US06458781B1
Step A. (S)-4-Methyl-2-(tetrahydro-pyran-4-ylamino)-pentanoic acid
A mixture of L-leucine (20.0 g, 152 mmol), concentrated aqueous HCl solution (13.1 mL, 36.5%), and tetrahydro-4H-pyran-4-one (30.0 g, 300 mmol, Aldrich, Milwaukee, Wis.) was agitated in an atmosphere of hydrogen (pressure, 43-51 psi) at room temperature in a mixture of ethanol and water (1:1, v/v, 400 mL) in the presence of Pd/C (20%, 4 g) until the absorption of hydrogen almost ceased, filtered. The filtrate was treated with concentrated aqueous ammonium hydroxide (29.8%) to adjust the pH to 5.5. White solid precipitated out which was isolated via filtration. The white solid was mixed with 150 mL of water and heated to boiling. After cooling down to 0° C., the white solid was filtered and dried under vacuum affording 17.5 g (53.4%) of the pure titled compound as a white solid; mp >300° C. APCI-MS m/z 216.2 (MH+).

reactant | L-leucine | 152 mmol, 20.0 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | HCl | 13.1 mL | Cl | ClH
reactant | tetrahydro-4H-pyran-4-one | 300 mmol, 30.0 g | O1CCC(CC1)=O | C5H8O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
solvent | water | 400 mL | O | H2O
catalyst | Pd/C | 4 g | [Pd] | Pd
solvent | water | 150 mL | O | H2O
product | (S)-4-Methyl-2-(tetrahydro-pyran-4-ylamino)-pentanoic acid | 17.5 g, 53.4% | CC(C[C@@H](C(=O)O)NC1CCOCC1)C | C11H21NO3
